US08198464B2
To an acetonitrile (5.0 ml) solution of 1-C-{3-[1-benzothien-2-yl(hydroxy)methyl]-4-fluorophenyl}-2,3,4,6-tetra-O-benzyl-D-glucopyranose (500 mg) were added triethylsilane (175 mg) and boron trifluoride-diethyl ether complex (196 mg) in an argon atmosphere at −20° C., followed by stirring at −20° C. for 5 hours. To the reaction mixture was added a saturated aqueous sodium bicarbonate solution, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to obtain (1S)-1,5-anhydro-1-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]-2,3,4,6-tetra-O-benzyl-D-glucitol (150 mg, yield: 30.2%)

reactant | 1-C-{3-[1-benzothien-2-yl(hydroxy)methyl]-4-fluorophenyl}-2,3,4,6-tetra-O-benzyl-D-glucopyranose | 500 mg | S1C(=CC2=C1C=CC=C2)C(C=2C=C(C=CC2F)C2(O)[C@H](OCC1=CC=CC=C1)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)O | C49H45FO7S
reactant | triethylsilane | 175 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
product | (1S)-1,5-anhydro-1-[3-(1-benzothien-2-ylmethyl)-4-fluorophenyl]-2,3,4,6-tetra-O-benzyl-D-glucitol | 150 mg, yield: 30.2% | S1C(=CC2=C1C=CC=C2)CC=2C=C(C=CC2F)[C@H]2[C@H](OCC1=CC=CC=C1)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C49H45FO5S
